US05780642
A solution of diethyl malonate (57.8 g) in absolute ethanol (100 ml) was added to a stirred solution of sodium ethoxide in absolute ethanol (prepared from sodium (8.31 g) and absolute ethanol (150 ml)). The mixture was stirred at ambient temperature for 30 minutes. The mixture was cooled in ice water and a solution of 1-benzyl-2-chloromethylimidazole hydrochloride (25.0 g) in absolute ethanol (210 ml) was added over 30 minutes. The mixture was stirred at ambient temperature for 2 hours and then concentrated under reduced pressure. Ice cold 2M hydrochloric acid (200 ml) was added to the residue and the solution washed with ethyl acetate. The aqueous layer was neutralised with sodium carbonate and extracted with ether to give a residue which was warmed at 95° C. for 18 hours with concentrated hydrochloric acid (100 ml). The mixture was evaporated to dryness to give 3-(1-benzylimidazol-2-yl)propionic acid hydrochloride as a glasslike product.

reactant | diethyl malonate | 57.8 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 1-benzyl-2-chloromethylimidazole hydrochloride | 25.0 g | Cl.C(C1=CC=CC=C1)N1C(=NC=C1)CCl
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 150 ml, 8.31 g | C(C)O | C2H6O
solvent | ethanol | 210 ml | C(C)O | C2H6O
product | 3-(1-benzylimidazol-2-yl)propionic acid hydrochloride | Cl.C(C1=CC=CC=C1)N1C(=NC=C1)CCC(=O)O | InChI=1S/C13H14N2O2.ClH/c16-13(17)7-6-12-14-8-9-15(12)10-11-4-2-1-3-5-11;/h1-5,8-9H,6-7,10H2,(H,16,17);1H
